US05026717
The procedure is as in Example 8, starting with 2-imino-3-[2-(4-pyridylthio)ethyl]-6-trifluoromethoxybenzothiazoline (2 g) and meta-chloroperbenzoic acid (90 pure by weight) (0.68 g) dissolved in water (25 cc) and dioxane (25 cc). The reaction mixture is stirred for 12 hours at 25.C and then concentrated to dryness at 40.C under reduced pressure (20 mm Hg; 2.7 KPa) to remove the dioxane. The aqueous solution is taken to a pH of 12-13 with concentrated ammonia solution (l0N) and then extracted with dichloromethane (2×50 cc). The organic phase is dried over anhydrous magnesium sulphate and concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The oil thereby obtained is purified by flash chromatography on a silica column under a stream of nitrogen at moderate pressure (0.5-1.5 bars), with a mixture of ethyl acetate and methanol (90:10 by volume) as eluent. An oil is thereby isolated, which oil, when treated with oxalic acid (0.25 g) and acetone (5 cc), gives 2-imino-3-[2-(4-pyridylsulphinyl)ethyl]-6trifluoromethoxybenzothiazoline (0.9 g) directly in the form of an oxalate, m.p. 194° C.

reactant | 2-imino-3-[2-(4-pyridylthio)ethyl]-6-trifluoromethoxybenzothiazoline | 2 g | N=C1SC2=C(N1CCSC1=CC=NC=C1)C=CC(=C2)OC(F)(F)F | C15H12F3N3OS2
reactant | meta-chloroperbenzoic acid | 0.68 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | oxalic acid | 0.25 g | C(C(=O)O)(=O)O | C2H2O4
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
solvent | water | 25 cc | O | H2O
solvent | dioxane | 25 cc | O1CCOCC1 | C4H8O2
solvent | acetone | 5 cc | CC(=O)C | C3H6O
product | 2-imino-3-[2-(4-pyridylsulphinyl)ethyl]-6trifluoromethoxybenzothiazoline | 0.9 g | N=C1SC2=C(N1CCS(=O)C1=CC=NC=C1)C=CC(=C2)OC(F)(F)F | C15H12F3N3O2S2
